US04088770
Preparation of 2-[N-(n-butyl)-4-chloro-3-(trifluoromethyl)anilino]benzoxazole
Hydrolysis of this N-(n-butyl)benzanilide (33 g., 0.093 mole) was accomplished by adding it to a solution of sodium hydroxide (10.8 g., 0.372 mole) in 200 ml. of water and 100 ml. of ethanol. The resulting solution was heated under reflux for 20 hours. The ethanol was then removed by distillation under vacuum. The remaining basic solution was extracted with diethyl ether; the ether extract was dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness by distillation under vacuum. The crude product obtained was purified by addition of 6 N hydrochloric acid and separation of the water-insoluble salts thus formed. The acidic solution was then made basic by the addition of an aqueous 10% sodium hydroxide solution. The product was again extracted with ether and dried, as described above, to give 16.9 g. of N-(n-butyl)-4-chloro-3-(trifluoromethyl)aniline.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-(n-butyl)-4-chloro-3-(trifluoromethyl)aniline | C(CCC)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C11H13ClF3N
product | 2-[N-(n-butyl)-4-chloro-3-(trifluoromethyl)anilino]benzoxazole | C(CCC)N(C1=CC(=C(C=C1)Cl)C(F)(F)F)C=1OC2=C(N1)C=CC=C2 | C18H16ClF3N2O
